US07872014B2
A solution of (5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)acetonitrile (250 mg, 0.88 mmol) in tetrahydrofuran (2 mL) was added to a suspension of sodium hydride (40% oil dispersion, 70 mg, 1.8 mmol) in tetrahydrofuran (5 mL), followed by the addition of 1-acetylimidazole (145 mg, 1.3 mmol). After five minutes at room temperature, stirring was continued at 60° C. for 20 minutes. After cooling to room temperature, the reaction mixture was quenched with hydrochloric acid (1M, 20 mL) and extracted with ethyl acetate (3×20 mL). The combined extract was washed with water and brine (20 mL each), dried over sodium sulfate, filtered and concentrated to give the crude 2-(5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-oxobutanenitrile (0.26 g, 0.80 mmol, 91% yield). 1H NMR (400 MHz, CDCl3): 6.73-6.69 (m, 2H), 4.29-4.21 (m, 2H), 4.15-4.13 (m, 2H), 3.79-3.76 (m 2H), 3.62-3.57 (m, 2H), 3.44 (s, 3H), 3.41 (s, 3H), 2.26 (s, 3H); MS (EI) for C16H20FNO5: 326 (MH+).

reactant | (5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)acetonitrile | 0.88 mmol, 250 mg | FC=1C=C(C(=C(C1)CC#N)OCCOC)OCCOC | C14H18FNO4
reactant | sodium hydride | 1.8 mmol, 70 mg | [H-].[Na+]
reactant | 1-acetylimidazole | 1.3 mmol, 145 mg | C(C)(=O)N1C=NC=C1 | C5H6N2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(5-fluoro-2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-oxobutanenitrile | 0.80 mmol, 0.26 g, 91% yield | FC=1C=C(C(=C(C1)C(C#N)C(C)=O)OCCOC)OCCOC | C16H20FNO5
